US07902367B2
Step D1) Methyl 4-benzylmorpholine-2-carboxylate
4-Benzylmorpholine-2-carboxylic acid hydrochloride (1.00 g, 3.88 mmol) in a 10 (w/w) % hydrochloric acid/methanol solution (20 mL) was stirred at room temperature for 2 hours. The solvent was evaporated and a saturated aqueous sodium bicarbonate solution was added to the residue to make the mixture basic. The mixture was then extracted with ethyl acetate and the extract washed with brine and was dried over magnesium sulfate. Evaporation of the solvent gave 730 mg (80%) of the desired compound as a colorless oil.

reactant | 4-Benzylmorpholine-2-carboxylic acid hydrochloride | 3.88 mmol, 1.00 g | Cl.C(C1=CC=CC=C1)N1CC(OCC1)C(=O)O
reactant | hydrochloric acid methanol | 20 mL | Cl.CO
product | Methyl 4-benzylmorpholine-2-carboxylate | 730 mg, 80% | C(C1=CC=CC=C1)N1CC(OCC1)C(=O)OC | C13H17NO3
